2159-09-30 11:02:00 Physician Resident Progress Note
MICU Resident Post Call Addendum:
   24 Hour Events:
   - Since admission, patient has been weaned down from NRB down to face
   mask, then 5L NC. BCx, UCx, and sputum Cx sent
   - Spoke to urology who clarified that patient initially had pelvic
   fracture in addition to his right acetabular fracture and had known
   free fluid likely blood in his pelvic floor. Negative for bladder
   rupture.
 BLOOD CULTURED - At [**2159-9-29**] 09:00 PM
 URINE CULTURE - At [**2159-9-29**] 09:00 PM
 SPUTUM CULTURE - At [**2159-9-30**] 12:18 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2159-9-29**] 10:42 PM
   Vancomycin - [**2159-9-30**] 09:31 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2159-9-29**] 11:00 PM
   Enoxaparin (Lovenox) - [**2159-9-30**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-9-30**] 11:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.4
C (97.6
   HR: 95 (89 - 99) bpm
   BP: 119/57(73) {95/48(61) - 124/63(75)} mmHg
   RR: 26 (22 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                    283 mL
                                                                  1,490 mL
   PO:
                                                                    120 mL
                                                                    980 mL
   TF:
   IVF:
                                                                    163 mL
                                                                    510 mL
   Blood products:
   Total out:
                                                                    212 mL
                                                                    436 mL
   Urine:
                                                                    212 mL
                                                                    436 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     71 mL
                                                                  1,054 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   Gen: Pleasant, awake, in NAD, not using accessory muscles to breathe
   HEENT: No LAD, no JVD appreciated
   Lungs: Bibasilar crackles, moderate air movement
   CV: RR, no M/R/G
   Abd: Distended, tympanic, nontender
   Ext: Right hip without pain, scrotal hematoma large eccymoses and
   tense.
   Labs / Radiology
   99 K/uL
   8.9 g/dL
   184 mg/dL
   1.3 mg/dL
   22 mEq/L
   4.0 mEq/L
   41 mg/dL
   102 mEq/L
   133 mEq/L
   25.0 %
   9.0 K/uL
        [image002.jpg]
                             [**2159-9-29**]  09:05 PM
                             [**2159-9-30**]  03:47 AM
   WBC
   10.9
   9.0
   Hct
   30.1
   25.0
   Plt
   93
   99
   Cr
   1.5
   1.3
   TropT
   <0.01
   Glucose
   189
   184
   Other labs: PT / PTT / INR:14.0/23.4/1.2, CK / CKMB /
   Troponin-T:280/8/<0.01, Differential-Neuts:83.8 %, Lymph:8.0 %,
   Mono:7.4 %, Eos:0.8 %, Ca++:8.3 mg/dL, Mg++:2.5 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   86 M with DM and 100-pack year tobacco hx admitted with R acetabular
   fracture now POD#3 s/p R acetabular repair [**9-27**] with post-op hypoxia now
   weaned down from NRB to nasal cannula.
   Plan per admit note with the following additions and changes.
   .
   # Hypoxia: Patient now weaned down from NRB to nasal cannula. DDx
   includes post-op atelectasis, emphysema, PNA, and fluid overload s/p
   transfusion of 5units PRBCs since surgery
   -- continue vanc/levo for now, follow culture data
   -- aggressive use of incentive spirometry as CXR showed low lung
   volumes c/w atelectasis
   -- continue ipratroprium
   .
   # Anemia: Patient with large pelvic fracture apparently with large
   amount of free fluid on pelvic floor prior to surgery. This is likely
   source of scrotal hematoma but would want to r/o continued bleed as has
   received 5units PRBCs since surgery and Hct has been stable but has not
   bumped appropriately.
   -- CT scan of abdomen/pelvis to r/o RP bleed and also assess distended
   abdomen
   -- urology to assess patient
s scrotal hematoma swelling today
   -- continue to monitor Hct Q8hr
   .
   #. s/p Hypotension: Patient reported to have hypotension to SBP 80s on
   floor. Concern for sepsis however no fever, white count, or source for
   infection. Patient
s BP has remained at baseline between SBP 110-120s
   overnight
   -- monitor closely
   -- continue to hold home losartan
   .
   # s/p percutaneous pinning acetabular fx: POD#3 today.
   -- ortho team following
   -- continue oxycodone for pain control, can discontinue IV morphine.
   -- continue post op lovenox, Ca, vit D
   -- PT involved, but goal is to have patient OOB to chair with assist
   today
   .
   # s/p post-op afib: Brief lasting about an hour in the setting of
   getting an albuterol neb. Would avoid inhaled beta agonists. Converted
   back to sinus with 10mg of IV dilt on the floor. Not on any maintenance
   orders and on transfer to the MICU the patient was in sinus rhythm.
   -- avoid albuterol
   -- continue telemetry
   ..
   # Hematuria: from trauma. Urology following. Patient with large scrotal
   hematoma which could be [**2-24**] foley trauma vs unclear procedure in
   suprapubic area.
   -- urology following, appreciate recs. Have urology come and reevaluate
   scrotal hematoma today
   -- continue foley
   -- f/u UA, UCx
   .
   # DM: Hold metformin since he got contrast from CTA.
   -- use insulin sliding scale
   .
   # HTN: BP stable but will continue to hold home losartan
   ICU Care
   Nutrition: Advance to regular diabetic diet
   Glycemic Control:  Insulin sliding scale for coverage.
   22 Gauge - [**2159-9-30**] 12:00 AM
   Prophylaxis:
   DVT: SC lovenox
   Stress ulcer: Protonix 40mg PO daily
   VAP:
   Comments:
   Communication:  Comments: daughter: [**Name (NI) 96**] [**Telephone/Fax (1) 1496**]
   Code status: Full code
   Disposition: ICU for now

2159-10-01 07:47:00 Physician Resident Progress Note
Chief Complaint:
   86 M with DM and 100-pack year tobacco hx admitted with R acetabular
   fracture now POD#4 s/p R acetabular repair [**9-27**] with post-op hypoxia now
   on NC, also with large scrotal and suprapubic hematoma.
   24 Hour Events:
   -          Serial Hcts stable overnight
   -          Urology saw pt and thought scrotal hematoma was likely [**2-24**]
   to blood from pelvic floor tracking down. Nothing to do from urologic
   standpoint.
   -          Sputum grew out GPC
 patient continues on Vancomycin
   -          CT abdomen showed ileus, pt given Fleets enema, put out
   stool, gas
   -          On transfer from bed to chair, pt went into narrow complex
   tachycardia at HR 160, no chest pain, asxs, given 5mg IV lopressor and
   went into afib, then NSR at 90. Pt started on diltiazem 30mg PO QID for
   rate control.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2159-9-29**] 10:42 PM
   Vancomycin - [**2159-9-30**] 08:12 PM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2159-9-30**] 08:00 AM
   Morphine Sulfate - [**2159-9-30**] 08:00 PM
   Pantoprazole (Protonix) - [**2159-9-30**] 08:12 PM
   Other medications:
   Lovenox 40mg SC daily
   Diltiazem 30mg PO QID
   Ipratroprium nebs
   Simvastatin 40mg daily
   Finasteride 5mg PO daily
   Terazosin 5mg PO QHS
   Citalopram 20mg daily
   PO oxycodone prn
   Insulin sliding scale
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-10-1**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.5
C (97.7
   HR: 77 (77 - 164) bpm
   BP: 101/49(63) {91/46(61) - 124/73(81)} mmHg
   RR: 20 (19 - 29) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,370 mL
                                                                    127 mL
   PO:
                                                                  1,530 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    840 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                  1,326 mL
                                                                    515 mL
   Urine:
                                                                  1,326 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,044 mL
                                                                   -388 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///24/
   Physical Examination
   Gen: Slightly lethargic, but able to answer questions,  in NAD, not
   using accessory muscles to breathe
   HEENT: No LAD, no JVD appreciated
   Lungs: Bibasilar crackles, moderate air movement
   CV: RR, no M/R/G
   Abd: Distended but improved from yesterday, tympanic, nontender
   Ext: Right hip without pain, scrotal hematoma large eccymoses and
   tense.
   Labs / Radiology
   114 K/uL
   9.1 g/dL
   172 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.9 mEq/L
   37 mg/dL
   103 mEq/L
   135 mEq/L
   25.8 %
   7.7 K/uL
        [image002.jpg]
                             [**2159-9-29**]  09:05 PM
                             [**2159-9-30**]  03:47 AM
                             [**2159-9-30**]  11:31 AM
                             [**2159-9-30**]  07:54 PM
                             [**2159-10-1**]  03:25 AM
   WBC
   10.9
   9.0
   7.7
   Hct
   30.1
   25.0
   26.7
   27.0
   25.8
   Plt
   93
   99
   114
   Cr
   1.5
   1.3
   1.1
   TropT
   <0.01
   Glucose
   189
   184
   172
   Other labs: PT / PTT / INR:13.9/26.1/1.2, CK / CKMB /
   Troponin-T:280/8/<0.01, Differential-Neuts:83.8 %, Lymph:8.0 %,
   Mono:7.4 %, Eos:0.8 %, Ca++:8.4 mg/dL, Mg++:2.5 mg/dL, PO4:2.3 mg/dL
   Micro data:
   [**2159-9-30**] 2+ GPC in pairs and chains
   [**9-29**]: BCx NGTD, UCx no growth
   Imaging:
   1. Increased gaseous distention of the bowel compared to the previous
   study.
   The colon is predominantly distended with some distention of small
   bowel.
   Findings are probably due to ileus.
   2. Decreased extraperitoneal hemorrhage adjacent to the bladder. There
   is
   residual blood around the right pelvic sidewall and lateral to the
   right psoas
   muscle. Generalized subcutaneous edema is seen in the inferior pelvis.
   The
   scrotum was not imaged on the current study.
   Assessment and Plan
   86 M with DM and 100-pack year tobacco hx admitted with R acetabular
   fracture now POD#4 s/p R acetabular repair [**9-27**] with post-op hypoxia
   likely [**2-24**] atelectasis and PNA now on NC, also with large scrotal and
   suprapubic hematoma.
   .
   # Hypoxia: Patient weaned down to 6L NC. Cause of hypoxia
   multifactorial: combination of post-op atelectasis, emphysema, and PNA
   with GPCs in sputum. [**Month (only) 51**] be component of fluid overload s/p transfusion
   of 5units PRBCs since surgery but is autodiuresing
   -- continue vanc/levo for now, tailor to sensitivities and
   specificities for GPCs in sputum
   -- aggressive use of incentive spirometry as CXR showed low lung
   volumes c/w atelectasis
   -- NG tube decompression as CT abd showed ileus, and PO narcan
   -- continue ipratroprium
   .
   # Bowel ileus: Patient with ileus on CT abd/pelvis from yesterday.
   Likely [**2-24**] to narcotics for pain. Fleets enema given with slight
   response but patient
s abdomen still distended and may be adding to
   patient
s hypoxia by decreasing lung volumes. Rectal tube in place.
   -- NGT decompression with NPO for now
   -- PO narcan may help ileus [**2-24**] narcotic use
   -- Fleets enema and bowel reg prn
   .
   # Lethargy: Patient slightly lethargic this AM, likely [**2-24**] narcotics,
   but will follow closely.
   -- wean down from narcotics
   -- CT head and toxic/metabolix w/u if mental status doesn
t improve
   .
   # Anemia: Patient with large pelvic fracture apparently with large
   amount of free fluid on pelvic floor prior to surgery. This is likely
   source of scrotal hematoma but would want to r/o continued bleed as has
   received 5units PRBCs since surgery and Hct has been stable but has not
   bumped appropriately. CT abd/pelvis showed no RP bleed, and decreased
   amount of blood in pelvic floor. Per urology, this blood from known
   fracture and bleed is likely tracking into scrotum but no acute
   intervention.
   -- urology following, appreciate recs.
   -- continue to monitor Hct Q12hr
   .
   #. s/p Hypotension: Resolved. Patient reported to have hypotension to
   SBP 80s on floor. Concern for sepsis however no fever, white count, or
   source for infection. Patient
s BP has remained at baseline between SBP
   110-120s since admission to ICU
   -- continue to hold home losartan
   .
   # s/p percutaneous pinning acetabular fx: POD#4 today. Oxycodone alone
   did not control pain so restarted on IV morphine prn. Some of continued
   anemia may be 2/2 blood from hip and pelvic fractures.
   -- ortho team following
   -- continue oxycodone and morphine for pain control
   -- add standing Tylenol for pain control
   -- continue post op lovenox, Ca, vit D
   -- PT involved, but goal is to have patient OOB to chair with assist
   today
   .
   # s/p post-op afib and SVT: 2 events of tachycardia since operation. No
   history of afib but patient started on PO dilt for rate control
   -- continue diltiazem 30mg PO QID for rate control
   -- avoid albuterol
   -- continue telemetry
   ..
   # Hematuria: from foley trauma. Urology following. Patient with large
   scrotal hematoma which is being followed by urology. UCx no growth
   -- urology following, appreciate recs. Have urology come and reevaluate
   scrotal hematoma today
   -- continue foley
   .
   # DM: Hold metformin since he got contrast from CTA.
   -- use insulin sliding scale
   .
   # HTN: BP stable but will continue to hold home losartan
   ICU Care
   Nutrition: NPO for now, bowel decompression with NGT
   Glycemic Control:  Insulin sliding scale for coverage.
   22 Gauge - [**2159-9-30**] 12:00 AM
   Prophylaxis:
   DVT: SC lovenox
   Stress ulcer: Protonix 40mg PO daily
   VAP:
   Comments:
   Communication:  Comments: daughter: [**Name (NI) 96**] [**Telephone/Fax (1) 1496**]
   Code status: Full code
   Disposition: remain in  ICU for now

2159-10-01 09:02:00 Physician Attending Progress Note
Chief Complaint: hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   86 y/o M w/type 2 DM, extensive tobacco hx, MGUS, admitted s/p hip
   fracture now with hypoxemia and anemia.  Hypoxemia appears to be
   associated with transfusions but does not appear massively volume
   overloaded on exam
   24 Hour Events:
   - sputum cx with GPCs
   - abd CT showed ileus
   - narrow complex tachycardia yesterday upon transferring from bed to
   chair, broke with metoprolol
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2159-9-29**] 10:42 PM
   Vancomycin - [**2159-9-30**] 08:12 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2159-9-30**] 08:00 PM
   Pantoprazole (Protonix) - [**2159-9-30**] 08:12 PM
   Other medications:
   insulin sliding scale, finasteride, multivitamin, lovenox 40 SQ daily,
   colace, calcium carbonate, vitamin D, celexa, niacin, simvastatin,
   terazosin, senna, diltiazem 30 mg four times/day, bacitracin, morphine
   & oxycodone prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-10-1**] 09:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.6
   HR: 76 (75 - 164) bpm
   BP: 100/50(61) {91/46(61) - 124/73(81)} mmHg
   RR: 23 (19 - 29) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,370 mL
                                                                    137 mL
   PO:
                                                                  1,530 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    840 mL
                                                                     87 mL
   Blood products:
   Total out:
                                                                  1,326 mL
                                                                    635 mL
   Urine:
                                                                  1,326 mL
                                                                    635 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,044 mL
                                                                   -498 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 6L
   SpO2: 93%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, somnolent but responsive
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : )
   Abdominal: Soft, Bowel sounds present, Distended, less distended than
   yesterday
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   114 K/uL
   172 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.9 mEq/L
   37 mg/dL
   103 mEq/L
   135 mEq/L
   25.8 %
   7.7 K/uL
        [image002.jpg]
                             [**2159-9-29**]  09:05 PM
                             [**2159-9-30**]  03:47 AM
                             [**2159-9-30**]  11:31 AM
                             [**2159-9-30**]  07:54 PM
                             [**2159-10-1**]  03:25 AM
   WBC
   10.9
   9.0
   7.7
   Hct
   30.1
   25.0
   26.7
   27.0
   25.8
   Plt
   93
   99
   114
   Cr
   1.5
   1.3
   1.1
   TropT
   <0.01
   Glucose
   189
   184
   172
   Other labs: PT / PTT / INR:13.9/26.1/1.2, CK / CKMB /
   Troponin-T:280/8/<0.01, Differential-Neuts:83.8 %, Lymph:8.0 %,
   Mono:7.4 %, Eos:0.8 %, Ca++:8.4 mg/dL, Mg++:2.5 mg/dL, PO4:2.3 mg/dL
   Imaging: No new CXR
   Microbiology: sputum: 2+ GPCs in pairs and chains, [**11-17**] PMNs
   Assessment and Plan
   86 y/o M w/type 2 DM, extensive tobacco hx, MGUS, admitted s/p hip
   fracture now with hypoxemia and anemia.  Hypoxemia appears to be
   associated with transfusions but does not appear massively volume
   overloaded on exam.
   1. Hypoxemia:  He still has an impressive oxygen requirement without
   significant findings on lung exam.  Pneumonia seems unlikely given lack
   of infiltrate on CXR, afebrile, & no leukocytosis.  There may be a
   component of volume overload given the transfusions he received.
   Finally, there is a degree of atelectasis likely causing shunt; the
   atelectasis is likely related to his abdominal distention.
   - cover for pneumonia with vancomycin and levofloxacin
   - incentive spirometry, OOB to chair
   - atrovent nebs prn
   - aggressive bowel regimen, NGT for decompression, po narcan
   2. Anemia:  Hct is essentially stable since admission despite having
   been transfused 5 units of blood.  Per ortho no signs of hematoma
   around hip site.  Scrotum has hematoma but not enough to explain 5 unit
   blood requirement.  Abd CT without new bleed, just some old blood
   related to prior trauma.
   - check [**Hospital1 **] Hct
   3. s/p hip fracture:  Ortho following.
   - morphine & oxycodone prn
   - standing tylenol
   4. Hypotension: Resolved.  Holding antihypertensives.
   5. AFib/SVT:  Now back in NSR.  Holding albuterol.
   - on diltiazem
   6. Foley trauma:  Urology following.  Cont abx.
   7. DM:  Holding metformin as got contrast for CTA.  Creatinine
   improving.
   - cont insulin sliding scale
   ICU Care
   Nutrition:
   Comments: diabetic diet
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   22 Gauge - [**2159-9-30**] 12:00 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 min